Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Undifferentiated shock s/p cardiac arrest
 
Major Surgical or Invasive Procedure:
___ Diagnostic Paracentesis
 
History of Present Illness:
___ yoF h/o hep B cirrhosis, recent C-spine fracture as a result 
of the trauma with prolonged hospital course complicated by 
intraoperative cord infarction, strep meningitis, trach and PEG 
placement discharged ___ to ___ who presents s/p 
cardiac arrest. Patient was found to be hypoxic into the ___ and 
hypotensive to the ___ and subsequently went into PEA arrest. 
Received 10 minutes of CPR, 2 rounds of epinephrine, got return 
of spontaneous circulation at that time. She was started on 
levophed gtt. EKG showed junctional rhythm and QTc>500. 

Of note, she is on midodrine for BP support given spinal cord 
injury. She has been intermittently hypothermic since last 
admission, no history of fevers. Her trach was placed within the 
last 7 days. There's been no bleeding around the trach or issues 
ventilating the patient.  
 
In the ED, initial vitals: 93 with bear hugger 58 102/64 20 98% 
vent    
- Labs were notable for ___, lactate 7.2, 
7.6>9.4/30.4<64, ___ 26, PTT 40.3, INR 2.3, Fibrinogen 362, UA lg 
leuk, lg blood, 100 protein, many yeast. serum/urine tox 
appropriately + for barbituates- - CXR showed bilateral 
infiltrates, pulm edema  

On exam she was blinking eyes and moving. Per rehab she was at 
baseline mental status, which is poor. Post arrest team was 
consulted and stated no role for hypothermic protocol as back to 
baseline mental status. T93 with bear hugger. On levophed with 
pressures in 100s. Unable to get A-line in the ED. Has R PICC. 
Ascites on ultrasound but not tapped. 

On arrival to the MICU, she opens her eyes to voice but does not 
track or obey commands. She is on levophed gtt and maintaining 
MAPs in the ___.  
 
Past Medical History:
Epidural abscess
Sepsis
E. coli UTI 
Type II Diabetes Mellitus, Uncontrolled (A1C 9.0%)
Indolent Lymphoma
Remote latent TB 
DCIS s/p partial mastectomy
Hepatitis B Cirrhosis
Chronic Diarrhea
Failure to Thrive
 
Social History:
___
Family History:
According to daughter, no significant family history of disease. 
This includes cancers, heart disease, diabetes or GI issues.
 
Physical Exam:
ON ADMISSION:
Vitals: 95.2 68 148/86 20 98% on vent
GENERAL: Opens eyes to voice but does not track or obey 
commands, in NAD. Appears to be moving eyebrows vertically with 
low frequency
HEENT: Pupils not reactive but ?surgical, sclera anicteric, 
trach in place, on vent 
CV: Loud heart sounds, RRR, no m/r/g   
LUNGS: Coarse breath sounds throughout, mild crackles at lower 
bases bilaterally 
ABD: soft, distended, bowel sounds present but soft
EXT: Warm, well perfused, 2+ pulses, 2+ pitting edema in upper 
and lower extremities bilaterally 
SKIN: Grade 2 and 3 sacral ulcers, incision on upper back open
NEURO: Quadriplegic 
 
Pertinent Results:
ON ADMISSION:
___ 08:25PM BLOOD WBC-7.6 RBC-3.01* Hgb-9.4* Hct-30.4* 
MCV-101* MCH-31.2 MCHC-30.9* RDW-24.5* RDWSD-88.6* Plt Ct-64*
___ 08:25PM BLOOD ___ PTT-40.3* ___
___ 02:57AM BLOOD Glucose-313* UreaN-76* Creat-1.4* Na-141 
K-4.5 Cl-107 HCO3-13* AnGap-26*
___ 02:57AM BLOOD ALT-38 AST-67* LD(LDH)-413* AlkPhos-577* 
TotBili-1.1
___ 02:57AM BLOOD CK-MB-8 cTropnT-0.19* proBNP-1413*
___ 10:44AM BLOOD CK-MB-7 cTropnT-0.15*
___ 02:57AM BLOOD Calcium-7.8* Phos-5.3* Mg-2.2
___ 10:44AM BLOOD Phenoba-28.2 Phenyto-12.2
___ 08:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-POS Tricycl-NEG
___ 03:12AM BLOOD ___ pO2-40* pCO2-33* pH-7.35 
calTCO2-19* Base XS--6
___ 08:33PM BLOOD Glucose-295* Lactate-7.2* Na-134 K-4.1 
Cl-108 calHCO3-17*

MICROBIOLOGY:
___ Urine culture ___ yeast
___ Peritoneal fluid culture: YEAST, PRESUMPTIVELY NOT C. 
ALBICANS
___ Wound culture: No growth
___ Sputum culture: Commensal Respiratory Flora Absent. 
YEAST. MODERATE GROWTH.

IMAGING:
___ CXR: There are bibasilar opacities, left greater than 
right 
suggestive of effusions, larger on the left and moderate to 
large on the 
right.  Superimposed parenchymal opacities are likely in part 
due to 
atelectasis although infection or aspiration would be possible. 

___ EEG: This is an abnormal EEG due to the presence of a 
slow and 
disorganized background with periods of generalized suppression. 
This pattern is suggestive of a moderate to severe 
encephalopathy of toxic, metabolic, and/or anoxic etiology. No 
evidence of ongoing or potential epileptogenesis was seen at the 
time of this recording. No reactivity was evident with 
stimulation. 

___ ECHO: The left atrium is normal in size. No atrial 
septal defect is seen by 2D or color Doppler. Left ventricular 
wall thicknesses are normal. The left ventricular cavity size is 
normal. Regional left ventricular wall motion is normal. Left 
ventricular systolic function is hyperdynamic (EF>75%). There is 
no ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. The left ventricular inflow pattern suggests 
impaired relaxation. The tricuspid valve leaflets are mildly 
thickened. Moderate [2+] tricuspid regurgitation is seen. There 
is moderate pulmonary artery systolic hypertension. There is a 
very small pericardial effusion. There are no echocardiographic 
signs of tamponade. 

___ ___: No evidence of deep venous thrombosis in the right 
or left lower extremity veins.  Subcutaneous edema.  2.7 cm left 
popliteal fossa (___) cyst. 

 
Brief Hospital Course:
Patient went into PEA arrest with ROSC at rehab, upon arrival to 
___ she was hypotensive and required levophed gtt to maintain 
MAP>60. Likely cause of cardiac arrest was thought to be 
hypoxemia as patient was found to be satting in the ___ on 
rehab. It was determined that there was no need to undergo 
cooling protocol as patient's mental status was at baseline. 
Shock was determined to be septic secondary to ongoing infection 
at her cervical spine, as incision site was noted to be draining 
purulent fluid. She was started broadly on vanc/cefepime/flagyl. 


Patient was noted to have distended abdomen on exam. Given 
history of hep B cirrhosis she underwent diagnostic paracentesis 
due to concern for SBP in the setting of septic shock. 
Peritoneal fluid grew yeast and she was started on micafungin 
for fungal peritonitis.

Patient also presented with acute on chronic hypoxemic 
respiratory failure requiring CMV. CXR showed a large left 
pleural effusion. It was thought that she may have had a 
seizure, causing aspiration and thus hypoxemia. ___ was 
obtained given mild c/f PE and ruled out DVT. She was also 
continued on home phenytoin, keppra and lacosamide.  

On hospital day 3 at 1550 patient was becoming increasingly 
bradycardic. She received atropine 0.5mg x1 without effect. At 
1600 she was noted to be apneic. Family was notified and 
requested that patient be kept alive until her husband arrived 
on ___ night. However it was determined that CPR was not 
indicated as discussed on rounds in the morning. At 1605 she 
went into asystole. Her chest was auscultated for 1 minute 
without cardiac or breath sounds with the vent turned off. Her 
pupils were fixed and dilated. She was pronounced at 1606. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tenofovir Disoproxil (Viread) 300 mg PO DAILY 
2. CeftriaXONE 2 gm IV Q 12H 
3. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol 
4. Docusate Sodium 100 mg PO BID 
5. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
6. Glucose Gel 15 g PO PRN hypoglycemia protocol 
7. Heparin 2500 UNIT SC BID 
8. LACOSamide 200 mg PO BID 
9. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
10. LeVETiracetam 750 mg PO BID 
11. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
12. Midodrine 2.5 mg PO TID 
13. Phenytoin (Suspension) 50 mg PO QAM 
14. Phenytoin (Suspension) 75 mg PO QPM 
15. Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush 

 
Discharge Medications:
n/a
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
n/a
 
Discharge Condition:
n/a
 
Discharge Instructions:
n/a
 
Followup Instructions:
___